US06635763B2
(R)-(−)-(2-chloro-phenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetamide (II)
To the suspension of 1.6 g (R)-(−)-(2-chloro-phenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetamide (IR)-(−)-camphor-10-sulfonic acid salt in 100 mL water, 50 mL of sodium bicarbonate solution in water was added. After stirring the mixture, 150 mL ethyl acetate was added. The organic layer was extracted and combined organic layer was distilled off to get title product. The amount of product obtained was 900 mg (36%).

reactant | (R)-(−)-(2-chloro-phenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetamide (IR)-(−)-camphor-10-sulfonic acid salt | 1.6 g | [C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.ClC2=C(C=CC=C2)[C@H](C(=O)N)N2CC1=C(CC2)SC=C1
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | (R)-(−)-(2-chloro-phenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetamide | ClC1=C(C=CC=C1)[C@H](C(=O)N)N1CC2=C(CC1)SC=C2 | C15H15ClN2OS
